US04028344
Preparation of N-[1-(t-Butylazo)cyclohexyl]-N',N'-diethylurea
To 7.4 grams (0.0354 moles) of 1-t-butylazo-1-isocyanatocyclohexane stirred with a magnetic stirrer in a 50 ml erlenmeyer flask was added 2.49 grams (0.0354 moles) of diethylamine and the reaction mixture stirred at room temperature. When the reaction mixture became viscous pentane was added. The reaction mixture was stirred for 3 hours and the pentane evaporated under reduced pressure leaving a white wax weighing 10.0 grams (96% crude yield). The infrared spectrum of the product contained a strong carbonyl band at 1640 cm-1 and a sharp NH band at 3380 cm-1. The isocyanate band at 2225 cm-1 was absent.

reactant | 1-t-butylazo-1-isocyanatocyclohexane | 0.0354 moles, 7.4 grams | C(C)(C)(C)N=NC1(CCCCC1)N=C=O | C11H19N3O
reactant | diethylamine | 0.0354 moles, 2.49 grams | C(C)NCC | C4H11N
reactant | isocyanate | [N-]=C=O
solvent | pentane | CCCCC | C5H12
product | N-[1-(t-Butylazo)cyclohexyl]-N',N'-diethylurea | C(C)(C)(C)N=NC1(CCCCC1)NC(=O)N(CC)CC | C15H30N4O
